data/oMe_Silver.jsonl
{"reaction_id": "NR-335_1-c2ccc(OC)cc2_2-Cl_3-C#N_4-CC(C)F_5-C_6-S(=O)(=O)c2ccccc2_7-c2ccccc2","level": "medium","name": "Robinson Annulation","reactants_smiles": ["C(=C(C#N)C(=O)CC(C)F)(c2ccc(OC)cc2)Cl","C(C)(S(=O)(=O)c2ccccc2)C(=O)c2ccccc2"],"products_smiles": ["C1(=C(CC(C)F)C(=O)C(C(c2ccc(OC)cc2)(Cl)C1(C)S(=O)(=O)c2ccccc2)C#N)c2ccccc2"],"conditions": "Catalytic base","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(C)S(=O)(=O)c2ccccc2)([O-])c2ccccc2","step_weight": 0,"rationale": "The base abstracts an α-proton adjacent to the carbonyl, generating a resonance-stabilized enolate due to delocalization over the carbonyl oxygen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=O)(C(C(c2ccc(OC)cc2)(Cl)C(=C([O-])CCC(C)F)C#N)(C)S(=O)(=O)c2ccccc2)c2ccccc2","step_weight": 0,"rationale": "The nucleophilic enolate attacks the β-carbon of the α,β-unsaturated carbonyl via Michael addition, favored by conjugation and electrophilicity at the β-position."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C(c2ccc(OC)cc2)(Cl)C(C#N)C(=O)CCC(C)F)(C)S(=O)(=O)c2ccccc2)c2ccccc2","step_weight": 0,"rationale": "Protonation of the enolate oxygen regenerates a neutral carbonyl, stabilizing the intermediate and preparing for further enolate formation."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C(c2ccc(OC)cc2)(Cl)C(C#N)C([O-])=CCC(C)F)(C)S(=O)(=O)c2ccccc2)c2ccccc2","step_weight": 0,"rationale": "The base deprotonates another α-position, forming a new enolate that is positioned for intramolecular nucleophilic attack."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(CC(C)F)C(=O)C(C(c2ccc(OC)cc2)(Cl)C1(C)S(=O)(=O)c2ccccc2)C#N)(c2ccccc2)[O-]","step_weight": 0,"rationale": "The enolate attacks the intramolecular carbonyl, forming a six-membered ring via aldol cyclization, favored by minimal ring strain."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(CC(C)F)=C([O-])C(C(c2ccc(OC)cc2)(Cl)C1(C)S(=O)(=O)c2ccccc2)C#N)(c2ccccc2)O","step_weight": 0,"rationale": "Proton transfer converts the alkoxide intermediate into a β-hydroxy carbonyl, setting up for elimination."},{"step": 7,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1(=C(CC(C)F)C(=O)C(C(c2ccc(OC)cc2)(Cl)C1(C)S(=O)(=O)c2ccccc2)C#N)c2ccccc2","step_weight": 0,"rationale": "Base-induced elimination of water forms the α,β-unsaturated carbonyl, driven by conjugation and thermodynamic stability of the enone."}],"description": "Under basic conditions, the Robinson annulation proceeds via enolate formation, Michael addition to an α,β-unsaturated carbonyl, followed by intramolecular aldol condensation and dehydration. The base promotes enolate generation, facilitates C–C bond formation, and drives cyclization to the conjugated cyclohexenone product."}
{"reaction_id": "NR-221_1-c4ccc(Cl)cc4_2-CC(C)C","level": "hard","name": "Pictet-Spengler Reaction","reactants_smiles": ["NCCC1=CNC2=C1C=CC=C2","O=C(c4ccc(Cl)cc4)(CC(C)C)"],"products_smiles": ["C1(c4ccc(Cl)cc4)(CC(C)C)NCCC2=C1NC3=C2C=CC=C3"],"conditions": null,"mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c4ccc(Cl)cc4)(CC(C)C)=[NH+]C(CC1=CNC2=C1C=CC=C2)","step_weight": 0,"rationale": "The amine nitrogen attacks the electrophilic carbonyl carbon, facilitated by the electron-withdrawing effect of c4ccc(Cl)cc4 and CC(C)C, forming an iminium ion stabilized by resonance with the nitrogen."},{"step": 2,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C1(c4ccc(Cl)cc4)(CC(C)C)NCCC2C1=[NH+]C3=C2C=CC=C3","step_weight": 0,"rationale": "The electron-rich aromatic ring attacks the iminium carbon, driven by the strong electrophilicity of the iminium and the proximity in the tethered intermediate, favoring intramolecular cyclization."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1(c4ccc(Cl)cc4)(CC(C)C)NCCC2=C1NC3=C2C=CC=C3","step_weight": 0,"rationale": "Deprotonation adjacent to the nitrogen restores aromaticity, a thermodynamically favored process, stabilizing the fused heteroaromatic system."}],"description": "The Pictet–Spengler reaction proceeds via iminium ion formation from the amine and carbonyl, followed by intramolecular electrophilic aromatic substitution to form the fused heterocycle, and concludes with deprotonation to restore aromaticity and yield the stable product."}
